Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([C@@:2]1([H:11])[C@@:3]2([H:12])[C:4]([H:13])([H:14])[C-:5]([H:15])[C:6]([H:16])([H:17])[C+:7]12)([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C@@:3]2([H:12])[C:4]([H:13])([H:14])[C:5]([H:15])=[C:6]([H:16])[C@@:7]12[H:17])([H:8])([H:9])[H:10],11.604054983785616
[C:1]([C:2](/[C:3](=[N:4]/[H:13])[C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9].[H:12][H:14]>>[C:1]([C:2]([C@@:3]([N:4]([H:13])[H:14])([C:5]#[N:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],82.12592277640671
[O:1]([C:4]([C:2](=[C:3]([H:8])[H:9])[C:5](=[O:6])[H:12])([H:10])[H:11])[H:7]>>[O:1]([C:2]1([C:5](=[O:6])[H:12])[C:3]([H:8])([H:9])[C:4]1([H:10])[H:11])[H:7],75.65505470278276
[O:1]1/[C:2](=[N:3]\[H:8])[C@@:7]1([C@@:5]1([H:11])[C:4]([H:9])([H:10])[O:6]1)[H:12]>>[O:1]=[C:2]1[N:3]([H:8])[C:4]([H:9])([H:10])[C@@:5]2([H:11])[O:6][C@@:7]12[H:12],43.00411500731267
[C:1]([C@@:2]([O:3][H:12])([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6]#[N:7])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@:2]1([H:11])[C@@:4]([C:6]#[N:7])([H:13])[C:5]1([H:14])[H:15])([H:8])([H:9])[H:10].[O:3]([H:12])[H:16],84.0826958019382
[C:1]1([H:9])([H:10])[C@@:2]([C:5](=[O:6])[C:7]([H:12])([H:13])[H:14])([H:11])[C:3][N:4]1[H:8]>>[C:1]([C@@:2]([C:3]#[N:4])([C:5](=[O:6])[C:7]([H:12])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],55.14069966702738
[C:1]([O:2][C:3](=[O:4])[C:5]([O:6][H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O:2][H:10])([H:7])([H:8])[H:9].[C:3](=[O:4])=[C:5]([O:6][H:12])[H:11],68.3087803107189
[C:1]1([H:7])([H:8])[C:5]([C:2]([C:3]([O:4][H:13])([H:11])[H:12])([H:9])[H:10])=[N:6]1>>[C:1]([C@@:2]([C:3]([O:4][H:13])([H:11])[H:12])([C:5]#[N:6])[H:10])([H:7])([H:8])[H:9],70.03767983084501
[O:1]([C@:2]1([C:6]#[N:7])[C:3]([H:8])([H:9])[C:4]1=[C:5])[H:10]>>[O:1]=[C:2]([C:3]([C:4]#[C:5][H:10])([H:8])[H:9])[C:6]#[N:7],19.756277240279196
[N:1]#[C:2][c:3]1[c:4]([H:8])[n:5]([H:9])[n:6][n:7]1>>[N:1]#[C:2][C:3]1=[C:4]([H:8])[N:5]1[H:9].[N:6]#[N:7],51.046730654719
[C:1]([C:2]([C@@:3]([C:4]([H:14])([H:15])[H:16])([C:5]([C:6]([H:18])([H:19])[H:20])([C:7]([H:21])([H:22])[H:23])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3](=[C:4]([H:14])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[C:5]([C:6]([H:18])([H:19])[H:20])(=[C:7]([H:22])[H:23])[H:17].[H:15][H:21],77.8724566701564
[C:1]1([H:7])([H:8])[C@@:2]2([H:9])[C@@:3]3([H:10])[O:4][C@:5]1([H:11])[C@@:6]23[H:12]>>[C:1]1([H:7])([H:8])[C@@:2]2([H:9])[C@:3]([O:4][H:12])([H:10])[C:6]2=[C:5]1[H:11],100.702334918001
[C:1]([C:2]([C@@:3]([C:4]([H:14])([H:15])[H:16])([N:5]([C:6](=[O:7])[H:18])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C-:1]([C:2](/[C:3](=[N+:5](/[C:6](=[O:7])[H:18])[H:17])[H:13])([H:11])[H:12])([H:8])[H:10].[C:4]([H:9])([H:14])([H:15])[H:16],88.08023586685209
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[O:4]1)([H:7])([H:8])[H:9].[C:5](=[O:6])([H:13])[H:14]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[O:4][C:5]([H:13])([H:14])[O:6]1)([H:7])([H:8])[H:9],39.4647056939819
[C:1]([C:2]([C@@:3]([N:4]([H:13])[H:14])([C:5]#[N:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](/[C:3](=[N:4]\[H:13])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9].[C:5]=[N:6][H:14],48.5266753988109
[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[O:6][H:18])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([H:7])([H:8])([H:9])[H:18].[C:2]([C:3]([C:5]([H:15])([H:16])[H:17])=[O:6])([C:4]([H:12])([H:13])[H:14])([H:10])[H:11],83.75447719518621
[C:1]([C:2]([c:3]1[c:4]([H:13])[n:5]([H:14])[n:6][n:7]1)([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C-:3]([N+:7]#[N:6])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[C:4]=[N:5][H:14],91.97404889916919
[C:1]([C:2]([O:3][C:4]([C:5]([H:13])([H:14])[H:15])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:2]([O:3][C:4]([H:9])([H:11])[H:12])[H:10])([H:6])([H:7])[H:8].[C:5]([H:13])([H:14])[H:15],114.182206520391
[O:1]([C@:6]1([H:14])[C:2]([H:8])([H:9])[C:3]([H:10])([H:11])[C:4]([H:12])([H:13])[C:5]1)[H:7]>>[O:1]([C:2]([C:3]([C:4]([C:5]#[C:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])[H:7],55.5124543243807
[C:2]1([H:8])([H:9])[C:3]([H:10])([H:11])[O:4][C:5]([H:12])=[N:6]1.[O:1]([H:7])[H:13]>>[O:1]([C:2]([C:3]([O:4]/[C:5](=[N:6]/[H:13])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7],65.46811127747041
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]2([C:5]([H:14])([H:15])[O:6]2)[C:7]1([H:16])[H:17])([H:8])([H:9])[H:10]>>[C:1]([C:2](/[C:3](=[C:4]1/[C:5]([H:14])([H:15])[O:6]1)[H:12])([C:7]([H:13])([H:16])[H:17])[H:11])([H:8])([H:9])[H:10],113.724809410614
[C:1](=[C:2]1[C:3]([H:11])([H:12])[C:4]1([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])([H:7])[H:9].[H:8][H:10]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C:4]1([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])([H:7])([H:8])[H:9],77.84480498804479
[C:1]1([H:7])([H:8])[C@:2]2([H:9])[C@:3]3([H:10])[C:4]([H:11])([H:12])[C@@:5]1([H:13])[N:6]23>>[C:1]([C@:5]1([H:13])[C:4]([H:11])([H:12])[C@:3]2([H:10])[C:2]([H:7])([H:9])[N:6]21)[H:8],81.10512745881721
